US07910613B2
92: Thiophene-3-carboxylic acid [5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-yl]-amide
Prepared from 5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-ylamine and thiophene-3-carbonyl chloride.

reactant | 5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-ylamine | CC1=NC(=NO1)C1=C(N=C(S1)N)C1=CC=CC=C1 | C12H10N4OS
reactant | thiophene-3-carbonyl chloride | S1C=C(C=C1)C(=O)Cl | C5H3ClOS
product | Thiophene-3-carboxylic acid [5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-yl]-amide | CC1=NC(=NO1)C1=C(N=C(S1)NC(=O)C1=CSC=C1)C1=CC=CC=C1 | C17H12N4O2S2
